US04780477
By using the 2-(N-isopropylcyclohexylamino)ethyl chloride hydrochloride obtained and isatin, a method analogous to that described in Reference Example 1 was carried out to obtain 1-[2-(N-isopropylcyclohexylamino)ethyl]isatin having a melting point of 103°-106° C (yield: 75.5%, recrystallizing solvent: ethyl acetatehexane).

reactant | 2-(N-isopropylcyclohexylamino)ethyl chloride hydrochloride | Cl.C(C)(C)N(CCCl)C1CCCCC1
reactant | isatin | N1C(=O)C(=O)C2=CC=CC=C12 | C8H5NO2
product | 1-[2-(N-isopropylcyclohexylamino)ethyl]isatin | yield: 75.5% | C(C)(C)N(CCN1C(=O)C(=O)C2=CC=CC=C12)C1CCCCC1 | C19H26N2O2
